US03983885
2. (b) 3,5,5-Trimethyl-2,3-epoxy-cyclohexane-1,4-dione
2 ml of a 6N aqueous solution of NaOH have been added during a period of 15 minutes at 15°C to a mixture of 3,5,5-trimethyl-cyclohex-2-en-1,4-dione (3.7 g) and hydrogen hydroperoxide (8.3 ml of a 30 % solution) in 27 ml of methanol. The mixture was kept under stirring during 3 hours at 20°-25°C, treated with water and extracted with ether. The combined organic extracts were washed with water until neutrality, dried over MgSO4 and evaporated. 3.33g (81.5 %) of the desired product, b.p. 40°C/0.001 Torr, were thus obtained. IR: 1715 cm-1 ; MS: M+ = 168; m/e: 56 NMR (CCl4) : 1.05 (3H,s); 1.25 (3H,s); 1.50 (3H,s); 2.08 (1H,d, J=13 cps); 3.09 (1H,d, J=13 cps); 3.47 (1H,s) δ ppm.

reactant | NaOH | [OH-].[Na+]
reactant | 3,5,5-trimethyl-cyclohex-2-en-1,4-dione | 3.7 g | CC1=CC(CC(C1=O)(C)C)=O | C9H12O2
reactant | hydrogen hydroperoxide | OO | H2O2
reactant | water | O | H2O
solvent | methanol | 27 ml | CO | CH4O
product | 3,5,5-Trimethyl-2,3-epoxy-cyclohexane-1,4-dione | 3.33g, 81.5 % | CC12C(C(CC(C1=O)(C)C)=O)O2 | C9H12O3
